US05075327
To a solution of 8.2 g (25.6 mmole) of [R-(R*,S*)]-3-[4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol in 30 ml of dry pyridine at 0° C. was added slowly 4.8 ml (51.3 mmole) of acetic anhydride followed by a catalytic amount of 4-dimethylaminopyridine. The solution was stirred at 0° C. for 3 hours and then quenched with iced water. The mixture was extracted with 3×150 ml of CH2Cl2. The organic extracts were acidified with 1N H2SO4, washed with sat'd NaHCO3, dried over MgSO4, filtered and concentrated. The residue was chromatographed on a silica gel column (5:1, hexane/EtOAc), to give 7.3 g (81%) of [R-(R*,S*)]-3-[4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol acetate as an oil. [α]D25 =-11.09° (CHCl3 c=1.28). IR (CHCl3): 1730 cm-1. 1H NMR (200 MHz): δ1.25 (m, 1H), 1.60-1.72 (m, 18H), 1.61 (s, 3H), 1.80-2.05 (m, 4H), 2.05 (s, 3H), 3.38 (m, 1H), 3.50 (m, 1H), 3.72 (m, 1H), 3.88 (m, 1H), 4.05 (m, 2H), 4.58 (t, J=2.6 Hz, 1H). Mass Spectrum: M+ (352). Anal. for C21H36O4 : Calc. for C, 71.55; H, 10.29. Found: C, 71.16; H, 10.41.

reactant | 3-[4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol | O1C(CCCC1)OCCCCC1=C(C(CCC1)CCCO)C | C19H34O3
reactant | acetic anhydride | 51.3 mmole, 4.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol acetate | C(C)(=O)OCCCC1C(=C(CCC1)CCCCOC1OCCCC1)C | C21H36O4
